US05746946
Synthesis of 2-aminoethyl imidazolidinone
In a suitable reactor equipped with agitation and a reflux condenser, 465 parts by weight of urea and 798 parts by weight of diethylenetriamine were charged. The reaction mix was slowly heated to 140° C. Ammonia started to evolve at about 130° C. The temperature was slowly raised to 150° C. As the evolution of ammonia subsided, vacuum was applied and the remaining ammonia was removed. Product yield was approximately 1000 parts by weight. The product had a viscosity of 6000 cps at 25° C. and an MEQ/g of 6.5. (MEQ=milliequivalent weight). Gel phase analysis of the product showed approximately 95% purity. The product can be used as is or further purified by vacuum distillation. The major impurity is unreacted diethylenetriamine.

reactant | urea | NC(=O)N | CH4N2O
reactant | diethylenetriamine | NCCNCCN | C4H13N3
reactant | Ammonia | N | H3N
product | 2-aminoethyl imidazolidinone | NCCN1C(NCC1)=O | C5H11N3O
